US06407096B1
1-(2-(1,1-diphenylethylthio)ethyl)-5-hydroxy-1,2,3,4-tetrahydroquinoline
1-((1,1-diphenylethylthio)acetyl)-5-hydroxy-1,2,3,4-tetrahydroquinoline (136 mg) was dissolved in THF (5 ml), and the resultant solution was stirred at 0° C. A borane THF complex (1.0N in THF) (2.0 ml) was added to the solution, and the mixture was stirred at room temperature. After disappearance of the raw materials was confirmed, the reaction solution was added to a saturated ammonium chloride aqueous solution (20 ml), and then extracted with ethyl acetate. The resultant organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and a concentrated. The resultant residue was purified by column chromatography (silica gel:hexane/ethyl acetate=5/1) to obtain the object compound (60 mg, yield 46%).

reactant | 1-((1,1-diphenylethylthio)acetyl)-5-hydroxy-1,2,3,4-tetrahydroquinoline | 136 mg | C1(=CC=CC=C1)C(C)(SCC(=O)N1CCCC2=C(C=CC=C12)O)C1=CC=CC=C1 | C25H25NO2S
reactant | borane THF | 1.0N, 2.0 ml | B.C1CCOC1
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(2-(1,1-diphenylethylthio)ethyl)-5-hydroxy-1,2,3,4-tetrahydroquinoline | 60 mg, yield 46% | C1(=CC=CC=C1)C(C)(SCCN1CCCC2=C(C=CC=C12)O)C1=CC=CC=C1 | C25H27NOS
